US07507740B2
(iii) Production of N-{2-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-2-(methylsulfonyl)acetamide
A mixture of 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride (160 mg), 2-(methylsulfonyl)acetic acid (82.3 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (171 mg), 1-hydroxybenzotriazole monohydrate (137 mg), triethylamine (0.42 mL) and N,N-dimethylformamide (5.0 mL) was stirred at room temperature for 20 hrs. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with water and saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=4:1) and crystallization from ethanol-ethyl acetate-diisopropyl ether to give the title compound (112 mg) as pale-yellow crystals.

reactant | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 160 mg | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)OC(F)(F)F)Cl
reactant | 2-(methylsulfonyl)acetic acid | 82.3 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 171 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 137 mg | O.ON1N=NC2=C1C=CC=C2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.42 mL | C(C)N(CC)CC | C6H15N
product | N-{2-[4-({3-chloro-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-2-(methylsulfonyl)acetamide | 112 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)OC(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(CS(=O)(=O)C)=O | C24H21ClF3N5O5S
